US08530468B2
5-(8-Aminoisoquinolin-3-ylamino)pyrazine-2-carbonitrile (AA-061)
A mixture of tris(dibenzylideneacetone)dipalladium (0) (18 mg, 0.020 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (23 mg, 0.040 mmol) in toluene (1 mL) and DMF (1 mL) was degassed under a stream of nitrogen gas with stirring for 15 minutes. 5-(8-Bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile (65 mg, 0.20 mmol), benzophenone imine (36 mg, 0.20 mmol) and caesium carbonate (130 mg, 0.40 mmol) were added and the mixture was degassed for a further 5 minutes, then heated at 140° C. for 40 minutes in a microwave reactor. Upon cooling the reaction mixture was diluted with ethyl acetate and filtered through celite, washed sequentially with water and brine then dried (Na2SO4) and concentrated to dryness to afford a brown oil. The residue was dissolved in THF (2 mL) and treated with aqueous hydrogen chloride (2 mL, 2M) for 30 minutes and then concentrated to dryness. Preparative HPLC gave the title compound (5.64 mg, 0.022 mmol, 11%). 1H NMR (d6-DMSO, 400 MHz) δ 10.90 (br s, 1H), 9.35 (s, 1H), 8.80 (s, 1H), 8.70 (s, 1H), 8.25 (s, 1H), 7.40 (t, 1H, J=7.8, 6.8 Hz), 6.95 (d, 1H, J=7.8 Hz), 6.60 (d, 1H, J=6.8 Hz), 6.25 (s, 1H). LC-MS (2) Rt=2.32 min; m/z (ESI+) 263 (M+H).

reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.040 mmol, 23 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 5-(8-Bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.20 mmol, 65 mg | BrC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H8BrN5
reactant | benzophenone imine | 0.20 mmol, 36 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | caesium carbonate | 0.40 mmol, 130 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydrogen chloride | 2M, 2 mL | Cl | ClH
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.020 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(8-Aminoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.022 mmol, 5.64 mg, 11% | NC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H10N6
